US07674795B2
In a 10-ml round-bottomed flask under an argon atmosphere, dissolve 85 mg of 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-ol, obtained in Example 3, in 3 ml of dichloromethane. Cool the solution obtained to −60° C. then add, dropwise using a syringe, 41 μL of diethylamino sulphur trifluoride (DAST). Leave to return to room temperature and stir for 45 minutes, then pour the reaction mixture into an aqueous solution with 10% of sodium hydrogen carbonate and extract twice with dichloromethane. Combine the organic phases, dry over sodium sulphate and concentrate under reduced pressure. After purification by chromatography on silica gel (40-63 μm), eluting with a mixture of dichloromethane and methanol (95-5 by volume), we obtain 44 mg of 2-[9(R,S)-fluoro-9H-fluoren-4-yl]-1H-imidazo[4,5-c]pyridine, in the form of a white powder with the following characteristics:

reactant | 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-ol | 85 mg | N1=C(NC=2C=NC=CC21)C2=CC=CC=1C(C3=CC=CC=C3C21)O | C19H13N3O
reactant | diethylamino sulphur trifluoride | 41 μL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-[9(R,S)-fluoro-9H-fluoren-4-yl]-1H-imidazo[4,5-c]pyridine | 44 mg | FC1C2=CC=CC=C2C=2C(=CC=CC12)C=1NC2=C(C=NC=C2)N1 | C19H12FN3
